US07338959B2
N5-{2-[3-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 3-(2-methanesulfonyl-ethyl)-phenylamine (50 mg, 0.25 mmol) as a white solid (126 mg, 85%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.07 (s, 1H), 7.75-7.77 (m, 2H), 7.59 (d, J=8.1 Hz, 1H), 7.36 (t, J=6.0 Hz, 1H), 7.07-7.29 (M, 7H), 6.79-6.85 (M, 2H), 5.61 (d, J=5.7 Hz, 1H), 4.54 (d, J=5.7 Hz, 2H), 3.57 (s, 3H), 3.43 (s, 3H), 3.32-3.40 (m, 2H), 2.97 (s, 3H), 2.90-2.97 (M, 2H), 2.26 (s, 3H). MS (ESI) m/z=556 [M+H].

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | C21H21ClN6
reactant | 3-(2-methanesulfonyl-ethyl)-phenylamine | 0.25 mmol, 50 mg | CS(=O)(=O)CCC=1C=C(C=CC1)N | C9H13NO2S
product | N5-{2-[3-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(4-methyl-benzyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CCC=1C=C(C=CC1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)C)C)C=C1)C | InChI=1S/C30H33N7O2S.ClH/c1-21-8-10-23(11-9-21)20-32-30-34-26-19-25(12-13-27(26)37(30)3)36(2)28-14-16-31-29(35-28)33-24-7-5-6-22(18-24)15-17-40(4,38)39;/h5-14,16,18-19H,15,17,20H2,1-4H3,(H,32,34)(H,31,33,35);1H
